US07294643B2
Compound 2.16: Methyl 2-(2-Hydroxy-phenyl)-benzooxazole-7-carboxylate.
To a solution of 2-benzyloxybenzoic acid dry CH2Cl2 was added to 1 ml of freshly distilled oxalyl chloride. After stirring for 10 minutes, 1 drop of DMF was added to the reaction mixture. The reaction mixture was stirred for 2 hours at room temperature and the solvent was removed by evaporation. The resultant yellow oil was dried under vacuum for 3 hours. The yellow oil was then dissolved in 5 ml of dry xylenes and transferred via cannula to a solution of 3-aminosalacylic acid (g, 31.5 mmol) in xylenes. The mixture was stirred at room temperature for 1 h, then heated to reflux overnight. After the reaction mixture had cooled to room temperature, p-toluenesulfonic acid monohydrate (475 mg, 2.5 mmol) was added and the mixture heated to reflux for an additional 12 h. The reaction mixture was cooled to 0° C. and treated with an excess of TMSCHN2. The product was purified by column chromatography (20% EtOAc in hexane) to give a light yellow solid (42 mg, 36%): 1H NMR δ 4.04 (s, 3H, CH3), 7.00 (m, 1H), 7.10 (d, 1H, J=8.4 Hz), 7.4-7.5 (m, 2H), 7.87 (dd, 1H, J=8.1, 1.2 Hz), 7.97 (dd, 1H, J=7.5, 1.2 Hz), 8.06 (dd, 1H, J=8.1, 1.2 Hz); CIMS m/z 270 (MH+); HRMS m/z calc'd for C15H12NO4: 270.0763, found 270.0766.

reactant | 2-benzyloxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | p-toluenesulfonic acid monohydrate | 2.5 mmol, 475 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | Methyl 2-(2-Hydroxy-phenyl)-benzooxazole-7-carboxylate | 42 mg, 36% | OC1=C(C=CC=C1)C=1OC2=C(N1)C=CC=C2C(=O)OC | C15H11NO4
